US06610665B1
Intermediate 5: 2-Chloro-N-(1-Ethylpropyl)-adenosine
A mixture of 2,6-dichloro-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-9H-purine ** (10.1 g, 22.6 mM), iso-propanol (300 ml), K2CO3 (5 g) and 1-ethylpropylamine (2.17 g, 24.84 mM) was stirred at 20 C. for 24 hrs. The reaction mixture was heated at 54° C. for 73 hrs. Solvent was removed in vacuo, water (50 ml) was added, extracted with ethyl acetate (3×80 ml), the combined extracts were dried (MgSO4) affording the title compound as a creamy light brown foam (9.44 g). LC/MS system A Rt=2.66 min, m/z=372 MH+.

reactant | 2,6-dichloro-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-9H-purine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)Cl | C16H16Cl2N4O7
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-ethylpropylamine | 24.84 mM, 2.17 g | C(C)C(CC)N | C5H13N
solvent | iso-propanol | 300 ml | C(C)(C)O | C3H8O
product | 2-Chloro-N-(1-Ethylpropyl)-adenosine | 9.44 g | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NC(CC)CC | C15H22ClN5O4
